US08119422B2
b) Synthesis of methyl 4-acetoxy-3,5-dimethylbenzoate
A solution of methyl 3,5-dimethyl-4-hydroxybenzoate (2.146 g) in pyridine (20 mL) was cooled in an ice-bath under a nitrogen atmosphere. Acetic anhydride (5 mL) was added drop wise and after 30 minutes at 0° C., the reaction was warmed to room temperature and stirred for 2-3 hours. The solvent was then removed under reduced pressure and the crude product was dissolved in ethyl acetate (50 mL). This solution was washed with 1 N HCl, water and brine. It was then dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. Yield=2.4 g, white powder.

reactant | methyl 3,5-dimethyl-4-hydroxybenzoate | 2.146 g | CC=1C=C(C(=O)OC)C=C(C1O)C | C10H12O3
reactant | Acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-acetoxy-3,5-dimethylbenzoate | C(C)(=O)OC1=C(C=C(C(=O)OC)C=C1C)C | C12H14O4
